US06242443B1
7-Chloro-3-(4-phenylbutylamino)-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide (300 mg; 1.19 mmol) and 4-phenylbutylamine (1.5 g; 4.12 mmol) and with the use of same procedure as in example 21 120 mg (27.7%) of the title compound was prepared.; 1H-NMR (DMSO-d6) ppm; 10.8 (s, 1H, NH), 7.75 (d, 1H, H-8), 7.60 (dd, 1H, H-5), 7.2 (m, 7H), 3.29 (t, 2H, CH2), 2.66 (t, 2H, CH2), 1.5 (m, 4H, 2×CH2); MS:EI/70eV: 363 (M+), 272, 259, 231, 180, 91, 44.

reactant | 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 1.19 mmol, 300 mg | ClC1=NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C7H4Cl2N2O2S
reactant | 4-phenylbutylamine | 4.12 mmol, 1.5 g | C1(=CC=CC=C1)CCCCN | C10H15N
product | 7-Chloro-3-(4-phenylbutylamino)-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)NCCCCC2=CC=CC=C2)C=C1 | C17H18ClN3O2S
